US04720586
(a) N-(2,3-Dihydro-IH-inden-2-yl)-N'-[2-(3,4-dimethoxy phenyl)ethyl]hexanediamide
6-[2-(3,4-Dimethoxyphenyl)ethylamino]-6-oxohexanoic acid (6.0 g, 0.019 mole) was dissolved in dry dichloromethane (200 ml) and triethylamine (2.28 g, 0.021 mole) added followed by ethyl chloroformate (1.86 ml, 0.019 mole) at 0°. The solution was stirred at 0° for 30 min and a solution of 2-aminoindane hydrochloride (3.3 g, 0.019 mole) and triethylamine (2.52 ml 0.019) in dry dichloromethane (200 ml) added, allowed to warm to room temperature and stirred for a further 18 hr. The reaction mixture was washed with water, dried (MgSO4) and evaporated and the residue recrystallised from methanol to give the sub-title compound as a white solid (6.4 g), mp 162°-4°.

reactant | 6-[2-(3,4-Dimethoxyphenyl)ethylamino]-6-oxohexanoic acid | 0.019 mole, 6.0 g | COC=1C=C(C=CC1OC)CCNC(CCCCC(=O)O)=O | C16H23NO5
reactant | triethylamine | 0.021 mole, 2.28 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.019 mole, 1.86 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-aminoindane hydrochloride | 0.019 mole, 3.3 g | Cl.NC1CC2=CC=CC=C2C1
reactant | triethylamine | 2.52 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(2,3-Dihydro-IH-inden-2-yl)-N'-[2-(3,4-dimethoxy phenyl)ethyl]hexanediamide | 6.4 g | C1C(CC2=CC=CC=C12)NC(CCCCC(=O)NCCC1=CC(=C(C=C1)OC)OC)=O | C25H32N2O4
